US06867321B2
2-Benzyloxyethanol (85.0 g) and triethylamine (73.5 g) were dissolved in THF (500 mL) and methanesulfonyl chloride (76.8 g) was added dropwise at from 0° C. to 10° C. The mixture was stirred for 3 hr. 10% Aqueous sodium bicarbonate (300 mL) was poured into the reaction mixture, the mixture was partitioned and combined with an extract of the aqueous layer with MTBE (300 mL), and the mixture was washed with 10% aqueous sodium bicarbonate and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated to give 2-benzyloxyethyl methanesulfonate (124.0 g). The 2-benzyloxyethyl methanesulfonate (124.0 g) was dissolved in acetone (500 mL), and sodium iodide (130.0 g) was added. The mixture was stirred at from 50° C. to 60° C. for 3 hr. The reaction mixture was filtered and the solvent was evaporated. Water (300 mL) was added, and the mixture was extracted twice with toluene (300 mL). The toluene layer was washed successively with aqueous sodium hydrogen sulfite solution, water and brine and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the title compound (127.0 g).

reactant | 2-Benzyloxyethanol | 85.0 g | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | triethylamine | 73.5 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 76.8 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 2-benzyloxyethyl methanesulfonate | 124.0 g | CS(=O)(=O)OCCOCC1=CC=CC=C1 | C10H14O4S
